Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
desensitization 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ ovarian endometrioid
adenocarcinoma (at least stage IIB, on adjuvant ___ c/b
hypersensitivity reaction to taxol) who is being admitted for
desensitization for taxol.  Patient reports that she currently
feels well and took the cetirizine yesterday evening and this
morning.   

States that she feels more fatigued this morning since she had 
to
wake up early but otherwise she denies shortness of breath,
wheezing, chest pain or discomfort, current rashes, nausea,
vomiting, emesis, diarrhea or constipation, urinary symptoms, or
fevers or chills.  States that she feels in her usual state of
health.

REVIEW OF SYSTEMS: 
A complete 10-point review of systems was performed and was
negative unless otherwise noted in the HPI.

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
ovarian endometrioid adenocarcinoma (at least stage IIB, on
adjuvant ___ c/b hypersensitivity reaction to taxol)

PAST MEDICAL HISTORY:  
Childhood asthma 
Psoriasis

PSHx:
hymenectomy
 
Social History:
___
Family History:
Father - prostate cancer (age ___
PGF- prostate cancer
MGF - lymphoma
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals:  98.4 104/71 84 18 100RA
GENERAL: sitting in bed comfortably, in NAD
HEENT: NCAT, OP clear, no cervical LN
NECK: supple
LUNGS: CTAB, no wheezes or rales
CV: RRR, no r/m/g
ABD: +BS, soft, NT, ND
EXT: warm, no c/c/e
SKIN:  no obvious rashes
NEURO:    A&Ox3, CNII-XII intact, moving all four extremities

DISCHARGE PHYSICAL EXAM:  
GENERAL: sitting in bed comfortably, in NAD
HEENT: NCAT, OP clear, no cervical LN
NECK: supple
LUNGS: CTAB, no wheezes or rales
CV: RRR, no r/m/g
ABD: +BS, soft, NT, ND
EXT: warm, no c/c/e
SKIN:  no obvious rashes
NEURO:    A&Ox3, CNII-XII intact, moving all four extremities
 
Pertinent Results:
No new imaging, micro or labs performed during admission
 
Brief Hospital Course:
BRIEF SUMMARY
=============
___ w/ ovarian endometrioid adenocarcinoma (at least stage IIB, 
on adjuvant ___ c/b hypersensitivity reaction to taxol) 
who is being admitted for desensitization for taxol.

ACTIVE ISSUES
=============
#) Stage IIB low grade endometrioid adenocarcinoma with mucinous 
feature of ovary: 
Patient presented for desensitization protocol for taxol. 
Received pre-medications with cetirizine, diphenhydramine, 
zofran, famotidine and dexamethasone. She tolerated the 
desensitization protocol well without issue. Patient had 
difficult access and may benefit from port placement in the 
future. Following the desensitization protocol, she received 
carboplatin. 

TRANSITIONAL ISSUES
===================
#) ___ benefit from placement of port in the future given 
difficult access
#) Per outpatient oncologist note: plan to extend dexamethasone 
for total 3 days after chemo (D2-4) with Zofran BID for 3 days; 
Ibuprofen 600-800 mg TID day ___ may need to add Pepcid when 
taking high doses of ibuprofen and take with food

# HCP/Contact: ___ (mother, ___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Dexamethasone 4 mg PO Q12H 
2. LORazepam 0.5 mg PO Q6H:PRN nausea, anxiety, insomnia  
3. Ondansetron 8 mg PO Q8H:PRN nausea 
4. Prochlorperazine 10 mg PO Q6H:PRN nausea 
5. Cetirizine 10 mg PO DAILY 

 
Discharge Medications:
1.  Cetirizine 10 mg PO DAILY 
Take 1 night prior to chemo and 1 morning of chemo   
2.  Dexamethasone 4 mg PO Q12H 
Take for 2 days following chemo   
3.  LORazepam 0.5 mg PO Q6H:PRN nausea, anxiety, insomnia   
4.  Ondansetron 8 mg PO Q8H:PRN nausea  
5.  Prochlorperazine 10 mg PO Q6H:PRN nausea  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
- hypersensitivity reaction to taxol, s/p desensitization

SECONDARY: 
- Stage IIB low grade endometrioid adenocarcinoma with mucinous 
feature of ovary

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___.  You were admitted 
for desensitization of taxol, which you tolerated well.  You 
should schedule follow up with your oncologist, Dr. ___.  

Sincerely,
Your ___ team
 
Followup Instructions:
___